US08912218B2
5.2. 2,2,2-Trifluoro-1-thiazol-4-ylethyl (+/−)-2-[6′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]ethylcarbamate
The procedure described in Example 4 (step 4.6.) is followed. Starting from 0.183 g (1 mmol) of 4-nitrophenyl 2-[6′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]ethylcarbamate, described in Example 4 (step 4.4.), 0.19 g (1.5 mmol) of N,N-diisopropylethylamine, 0.006 g (0.05 mmol) of N,N-dimethylaminopyridine and 0.51 g (1.1 mmol) of 2,2,2-trifluoro-1-thiazol-4-ylethanol, obtained in step 5.1., and after chromatography on silica gel, eluting with a 40/60 mixture of ethyl acetate and cyclohexane, followed by recrystallization from a mixture of diethyl ether and hexane, gives 0.240 g of pure product in the form of a white powder.

reactant | 4-nitrophenyl 2-[6′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]ethylcarbamate | 1 mmol, 0.183 g | FC1=CC=C(C=C1)C1=CC=CC(=N1)N1CCC(CC1)CCNC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C25H25FN4O4
reactant | N,N-diisopropylethylamine | 1.5 mmol, 0.19 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,2,2-trifluoro-1-thiazol-4-ylethanol | 1.1 mmol, 0.51 g | FC(C(O)C=1N=CSC1)(F)F | C5H4F3NOS
product | 2,2,2-Trifluoro-1-thiazol-4-ylethyl (+/−)-2-[6′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]ethylcarbamate | 0.240 g | FC1=CC=C(C=C1)C1=CC=CC(=N1)N1CCC(CC1)CCNC(OC(C(F)(F)F)C=1N=CSC1)=O | C24H24F4N4O2S
